US03933906
The mixture of 1.3 g of 4-(4-acetamidophenylamino)-3-but-2-enylamino-5-(4-acetamidophenylsulfamoyl)-benzoic acid and 13 ml of 2 N aqueous sodium hydroxide is refluxed for 1 hour under nitrogen. After cooling to room temperature it is filtered, the filtrate acidified with glacial acetic acid to a pH of 4-5 and the precipitate formed filtered off and washed with water, to yield the 4-(4-aminophenylamino-3-but-2-enylamino-5-(4-aminophenylsulfamoyl)-benzoic acid melting at about 130°.

reactant | 4-(4-acetamidophenylamino)-3-but-2-enylamino-5-(4-acetamidophenylsulfamoyl)-benzoic acid | 1.3 g | C(C)(=O)NC1=CC=C(C=C1)NC1=C(C=C(C(=O)O)C=C1S(NC1=CC=C(C=C1)NC(C)=O)(=O)=O)NCC=CC | C27H29N5O6S
reactant | sodium hydroxide | 2 N, 13 ml | [OH-].[Na+]
product | 4-aminophenylamino-3-but-2-enylamino-5-(4-aminophenylsulfamoyl)-benzoic acid | NC1=C(C(=C(C(=O)O)C=C1S(NC1=CC=C(C=C1)N)(=O)=O)NC1=CC=CC=C1)NCC=CC | C23H25N5O4S
